US08669208B2
2-Bromo-2,2-difluoro-N-(4-fluoro-2-hydroxyphenyl)acetamide
To 2-amino-5-fluorophenol (14 g, 110 mmol) in dry tetrahydrofuran at 0° C. was added sodium hydride (55 wt % in mineral oil; 4.81 g, 110 mmol). The resulting mixture was stirred for 15 minutes at −15° C. Subsequently ethyl 2-bromo-2,2-difluoroacetate (24.59 g, 121 mmol) was added dropwise and the resulting mixture was stirred at 0° C. for two hours. The reaction mixture was quenched with saturated aqueous NH4Cl solution and extracted with ethyl acetate. The combined extracts were washed with brine, dried with Na2SO4 and concentrated to yield 33 g of the title compound.

reactant | 2-amino-5-fluorophenol | 110 mmol, 14 g | NC1=C(C=C(C=C1)F)O | C6H6FNO
reactant | sodium hydride | 110 mmol, 4.81 g | [H-].[Na+]
reactant | ethyl 2-bromo-2,2-difluoroacetate | 121 mmol, 24.59 g | BrC(C(=O)OCC)(F)F | C4H5BrF2O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-Bromo-2,2-difluoro-N-(4-fluoro-2-hydroxyphenyl)acetamide | 33 g | BrC(C(=O)NC1=C(C=C(C=C1)F)O)(F)F | C8H5BrF3NO2
